US06723722B1
The resultant solution of 1-(tert-butoxycarbonylamino)-2-piperazinone in ethyl acetate (20 ml) and a 10% aqueous solution of sodium carbonate (20 ml) was treated at 0° C. with 6-chloronaphthalene-2-sulfonyl chloride (1.36 g) and stirred at room temperature for 30 minutes. The organic phase was separated, washed with brine, dried and concentrated. The residue thus obtained was purified by a column chromatography on a silica gel (hexane:ethyl acetate=1:2) to obtain 1-(tert-butoxycarbonylamino)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (848 mg) as a colorless amorphous solid.

reactant | 1-(tert-butoxycarbonylamino)-2-piperazinone | C(C)(C)(C)OC(=O)NN1C(CNCC1)=O | C9H17N3O3
reactant | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-chloronaphthalene-2-sulfonyl chloride | 1.36 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6Cl2O2S
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-(tert-butoxycarbonylamino)-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 848 mg | C(C)(C)(C)OC(=O)NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C19H22ClN3O5S
